US08729102B2
C) tert-butyl [(1S)-2-(4-ethynyl-3-fluorophenoxy)-1-methylethyl]carbamate
Under nitrogen, a mixture of tert-butyl [(1S)-2-(4-bromo-3-fluorophenoxy)-1-methylethyl]carbamate (23.3 g), ethynyl(trimethyl)silane (13.1 g), bis(triphenylphosphine)palladium(II) dichloride (4.70 g), cuprous iodide (1.27 g), triethylamine (14.0 mL), and toluene (20 mL) was stirred at 100° C. overnight. The precipitate was filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in THF (200 mL), and tetrabutylammonium fluoride (1.0 M solution in THF, 201 mL) was added dropwise at room temperature. The mixture was stirred at room temperature for 2 hr. 1 M hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) and washed with hexane to give the title compound (12.2 g) as a light brown solid.

reactant | tert-butyl [(1S)-2-(4-bromo-3-fluorophenoxy)-1-methylethyl]carbamate | 23.3 g | BrC1=C(C=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1)F | C14H19BrFNO3
reactant | ethynyl(trimethyl)silane | 13.1 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | triethylamine | 14.0 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 4.70 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl [(1S)-2-(4-ethynyl-3-fluorophenoxy)-1-methylethyl]carbamate | 12.2 g | C(#C)C1=C(C=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1)F | C16H20FNO3
